US08377930B2
The following representative compounds in Table 1 were synthesized according to (i) the foregoing procedures by selecting appropriate starting materials (for example, 4-fluoro mandelic acid derivatives (e.g., examples 12-1 and 12-3) were synthesized using commercially available 4-fluoromandelic acid) and (ii) known organic synthesis techniques (for example, treatment of commercially available α-phenylacetic acid methyl ester with hydrazine hydrate in ethanol under with heating provides phenyl-acetic acid hydrazide (see, e.g., Pandeye, S, N.; Manjula, H.; Stables, J. P.; Pharmazie; 2001, 56, 121-124) and treatment of phenyl acetic acid hydrazide with a substituted benzaldehyde in ethanol with heating and in the presence of catalytic acetic acid provides the corresponding substituted phenyl-acetic acid benzylidenehydrazide (see, e.g., Stephanidou-Stephanatou, J.; Lefkopoulou, S; Journal of Heterocyclic Chemistry; 1982; 19; 705-711.0)).

reactant | 4-fluoro mandelic acid | FC1=CC=C(C(C(=O)O)O)C=C1 | C8H7FO3
reactant | α-phenylacetic acid methyl ester | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | phenyl acetic acid hydrazide | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
